US08461149B2
Step 1: tert-butyl (1R,3S)-3-hydroxycyclopentylcarbamate
Di-tert-butyl dicarbonate (432 mg, 1.98 mmol) was added to a solution of (1S,3R)-3-aminocyclopentanol (200 mg, 1.98 mmol) and triethylamine (0.662 ml, 4.75 mmol) in dichloromethane (20 mL) at 0° C. After complete addition, the reaction mixture was allowed to warm up to room temperature and was stirred for 18 hours. The reaction mixture was concentrated under vacuo and purified on silica gel by flash column chromatography to give the required compound (380 mg, 95% yield).

reactant | Di-tert-butyl dicarbonate | 1.98 mmol, 432 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (1S,3R)-3-aminocyclopentanol | 1.98 mmol, 200 mg | N[C@H]1C[C@H](CC1)O | C5H11NO
reactant | triethylamine | 4.75 mmol, 0.662 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl (1R,3S)-3-hydroxycyclopentylcarbamate | 380 mg, 95% yield | O[C@@H]1C[C@@H](CC1)NC(OC(C)(C)C)=O | C10H19NO3
